US04894386
A solution of indole-5-acetic acid (2.0 g), 4-dimethylaminopyridine (1.5 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.4 g), and butylamine (1.2 ml) in methylene chloride was stirred under a nitrogen atmosphere for 18 hr. The reaction was diluted with methylene chloride, washed (10% (v/v) hydrochloric acid, water, brine), dried (MgSO4), and evaporated to give N-butylindole-5-acetamide (2.03 g, 77%) as an amber oil: NMR (300 MHz, CDCl3): 0.84(t, 3H, N(CH2)3CH3), 3.16(m, 2H, NCH2), 3.68(s, 2H, ArCH2), 5.44(br s, 1H, NH), 6.51(m, 1H, H2 -indole), 8.49(br s, 1H, NH).

reactant | indole-5-acetic acid | 2.0 g | N1C=CC2=CC(=CC=C12)CC(=O)O | C10H9NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.4 g | Cl.CN(CCCN=C=NCC)C
reactant | butylamine | 1.2 ml | C(CCC)N | C4H11N
catalyst | 4-dimethylaminopyridine | 1.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-butylindole-5-acetamide | 2.03 g, 77% | C(CCC)NC(CC=1C=C2C=CNC2=CC1)=O | C14H18N2O
